US08378104B2
Step C: 3-bromo-2-fluoro-4-iodo-benzaldehyde
To a cooled (−78° C.) solution of 2-bromo-1-fluoro-3-iodo-benzene (10.5 g, 35 mmol) in THF (100 mL) under nitrogen was added LDA (2.0 M, 21 mL, 42 mmol). The mixture was stirred for 1 h at −78° C. and then DMF (4.0 mL, 52 mmol) was added slowly. The reaction mixture was stirred for a further 1 h and then saturated aqueous ammonium chloride (50 mL) was added slowly and the mixture was warmed to RT. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×60 mL). The combined organic fractions were washed with brine (100 mL), dried over anhydrous sodium sulfate, and concentrated. Purification of the residue by flash chromatography (5% ethyl acetate:hexanes) afforded 2.3 g (20%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.43 (dd, J=9.0, 6.6 Hz, 1H), 7.69 (dd, J=9.0, 1.5 Hz, 1H), 10.08 (d, J=0.9 Hz, 1H); 19F NMR (282 MHz, CDCl3): δ−109.18 (d, J=7.3 Hz, 1F).

reactant | 2-bromo-1-fluoro-3-iodo-benzene | 35 mmol, 10.5 g | BrC1=C(C=CC=C1I)F | C6H3BrFI
reactant | LDA | 42 mmol, 2.0 M, 21 mL | [Li+].CC(C)[N-]C(C)C
reactant | DMF | 52 mmol, 4.0 mL | CN(C)C=O | C3H7NO
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-bromo-2-fluoro-4-iodo-benzaldehyde | 2.3 g, 20% | BrC=1C(=C(C=O)C=CC1I)F | C7H3BrFIO
